US07173139B2
(S)-3-(4-Dimethylamino-2-methoxy-phenyl)-3-phenyl-propanol:
To a 50-mL roundbottom flask equipped with a magnetic stir bar was added (2S,5S)-5-benzyl-2-tert-butyl-3-methylimidazolidin-4-one (0.394 g, 1.60 mmol, 0.100 equiv), CH2Cl2 (16.0 mL), HCl (as a 4N solution in 1,4-dioxane, 0.400 mL, 1.60 mmol, 0.100 equiv), and N,N-dimethyl-m-anisidine (4.69 mL, 32.0 mmol, 2.00 equiv). The reaction vessel was cooled to 0° C. before the addition of cinnamaldehyde (2.06 ml, 16.0 mmol, 1.00 equiv). The solution was stirred for 12 h at 0° C. and then warmed to ambient temperature and stirred for an additional 6 h. At that time, the reaction mixture was added drop-wise to a stirring suspension of NaBH4 (0.750 g, 0.198 mmol, 1.24 equiv) in ethanol. After 5 min, the reduction was quenched with saturated aqueous NaHCO3 solution and diluted with CH2Cl2. The layers were separated and the organic was washed with saturated aqueous NaHCO3 and brine solutions. The resulting solution was dried over sodium sulfate and concentrated in vacuo to give a pale yellow residue, which was purified by silica gel chromatography. Gradient elution with 25–50% EtOAc in hexanes afforded the product as a colorless oil in 81% yield (3.70 g, 13.0 mmol); 74% ee. 1H NMR (300 MHz, CDCl3) δ 7.32–7.12 (m, 5H, ArH), 6.99 (d, J=8.2 Hz, 1H, ArH), 6.31 (dd, J=2.7, 8.8 Hz, 1H, ArH), 6.27 (d, J=2.2, Hz, 1H, ArH), 4.51 (dd, J=6.6, 8.8 Hz, 1H, ArCH), 3.83 (s, 3H, OCH3), 3.65–3.48 (m, 2H, CH2OH), 2.93 (s, 6H, N(CH3)2), 2.38–2.12 (m, 2H, CHCH2), 1.98 (br s, 1H, OH); 13C NMR (75 MHz, CDCl3) δ 157.8, 150.5, 145.5, 128.8, 128.4, 128.2, 125.9, 121.3, 105.5, 96.6, 61.6, 55.9, 41.1, 38.7, 38.2.

reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methylimidazolidin-4-one | 1.60 mmol, 0.394 g, 0.100 equiv | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
reactant | HCl | Cl | ClH
reactant | N,N-dimethyl-m-anisidine | 32.0 mmol, 4.69 mL, 2.00 equiv | CN(C=1C=C(OC)C=CC1)C | C9H13NO
reactant | cinnamaldehyde | 16.0 mmol, 2.06 ml, 1.00 equiv | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | NaBH4 | 0.198 mmol, 0.750 g, 1.24 equiv | [BH4-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | CH2Cl2 | 16.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-Dimethylamino-2-methoxy-phenyl)-3-phenyl-propanol | 81% yield | CN(C1=CC(=C(C=C1)[C@@H](CCO)C1=CC=CC=C1)OC)C | C18H23NO2
